US08461175B2
340 mg of 2-methylpropan-2-yl 4-{[5-(2,6-difluorophenyl)-7-fluoro-2-{[2-(trimethylsilyl)ethoxy]methyl}-2H-pyrazolo[4,3-c]isoquinolin-3-yl]amino}piperidine-1-carboxylate are introduced into 16 ml of methanol and 1.5 ml of THF. After cooling to 0° C. using an ice bath, 2.7 ml of a 4N solution of hydrochloric acid in dioxane are added and the mixture is stirred at RT for 5 h. It is poured into 200 ml of saturated sodium bicarbonate solution and then extracted with ethyl acetate, dried over MgSO4, filtered and concentrated under RP. The product is purified by flash chromatography on silica gel (15-40 μm), eluting with a DCM/methanol/aqueous ammonia mixture (90/10/1 by vol.), to give 180 mg of 5-(2,6-difluorophenyl)-7-fluoro-N-(piperidin-4-yl)-2-{[2-(trimethylsilyl)ethoxy]methyl}-2H-pyrazolo[4,3-c]isoquinolin-3-amine (yellow solid), LC-MS-DAD-ELSD: 528=(M+H).

reactant | 2-methylpropan-2-yl 4-{[5-(2,6-difluorophenyl)-7-fluoro-2-{[2-(trimethylsilyl)ethoxy]methyl}-2H-pyrazolo[4,3-c]isoquinolin-3-yl]amino}piperidine-1-carboxylate | 340 mg | FC1=C(C(=CC=C1)F)C1=NC=2C(C=3C=CC(=CC13)F)=NN(C2NC2CCN(CC2)C(=O)OC(C)(C)C)COCC[Si](C)(C)C | C32H40F3N5O3Si
reactant | methanol | 16 ml | CO | CH4O
reactant | hydrochloric acid | Cl | ClH
reactant | sodium bicarbonate | 200 ml | C([O-])(O)=O.[Na+]
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | THF | 1.5 ml | C1CCOC1 | C4H8O
product | 5-(2,6-difluorophenyl)-7-fluoro-N-(piperidin-4-yl)-2-{[2-(trimethylsilyl)ethoxy]methyl}-2H-pyrazolo[4,3-c]isoquinolin-3-amine | 180 mg | FC1=C(C(=CC=C1)F)C1=NC=2C(C=3C=CC(=CC13)F)=NN(C2NC2CCNCC2)COCC[Si](C)(C)C | C27H32F3N5OSi
